US08247562B2
(RS)—N-(2-aminophenyl)-4-piperidin-3-ylbenzamide
To a solution of (RS)—N-(2-t-butoxycarbonylaminophenyl)-4-piperidin-3-ylbenzamide (1.0 g, 2.5 mmol) in 1,4-dioxane (9.5 ml) was added a solution of hydrogen chloride (4M in 1,4-dioxane, 9.5 ml, 38 mmol) and the mixture stirred at ambient temperature for 6 hours. The solid formed was collected by filtration, washed with diethyl ether and dried in vacuo. It was treated with a 2M solution of aqueous sodium hydroxide and extracted three times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and evaporated to afford the product as a colourless solid (0.73 g, 99%); NMR Spectrum: (DMSO-d6) 1.71 (m, 4H), 2.61 (m, 2H), 2.75 (m, 1H), 3.03 (m, 2H), 4.92 (s, 2H), 6.65 (t, 1H), 6.83 (d, 1H), 7.02 (t, 1H), 7.23 (d, 1H), 7.42 (d, 2H), 7.96 (d, 2H), 9.61 (s, 1H); Mass Spectrum: M+H+ 296.

reactant | (RS)—N-(2-t-butoxycarbonylaminophenyl)-4-piperidin-3-ylbenzamide | 2.5 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1CNCCC1)=O | C23H29N3O3
reactant | hydrogen chloride | 38 mmol, 4M, 9.5 ml | Cl | ClH
solvent | 1,4-dioxane | 9.5 ml | O1CCOCC1 | C4H8O2
product | (RS)—N-(2-aminophenyl)-4-piperidin-3-ylbenzamide | 0.73 g, 99% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1CNCCC1)=O | C18H21N3O
